US09447091B2
N-(2′,4′-difluoro-5-(6-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide
To a solution of 2′,4′-difluoro-5-(6-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-amine (65 mg, 0.136 mmol) in DCM was added pyridine (21 mg, 2.72 mmol, 2.0 eq.) followed by ethanesulfonyl chloride (21 mg, 0.164 mmol, 1.2 eq.). After completion of the reaction the solvent was distilled off and the crude product was purified by preparative HPLC to give the product in 42% yield (30 mg). 1H NMR (300 MHz, DMSO): δ 10.4 (s, 1H) 9.04 (s, 1H), 8.99-8.98 (d, 1H), 8.90 (d, 1H), 8.63-8.61 (d, 1H) 7.95 (d, 1H), 7.76-7.70 (m, 2H), 7.49 (m, 2H), 7.35 (d, 1H), 4.82 (m, 1H), 3.95 (d, 2H), 3.58-3.55 (t, 2H), 3.36-3.28 (m, 2H), 2.12 (m, 2H), 1.29-1.24 (t, 3H), 1.08-1.06 (t, 2H); LC-MS (ESI): Calculated mass: 565.5; Observed mass: 565.9 [M+H]+ (rt: 1.44 min).

reactant | 2′,4′-difluoro-5-(6-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-amine | 0.136 mmol, 65 mg | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC=2C1=NC=C(C2)C=2N=NN(C2)C2CCOCC2)N | C25H21F2N7O
reactant | pyridine | 2.72 mmol, 21 mg, 2.0 eq. | N1=CC=CC=C1 | C5H5N
reactant | ethanesulfonyl chloride | 0.164 mmol, 21 mg, 1.2 eq. | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2′,4′-difluoro-5-(6-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 42% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC=2C1=NC=C(C2)C=2N=NN(C2)C2CCOCC2)NS(=O)(=O)CC | C27H25F2N7O3S
